US07498440B2
{1-[(2-bromoethyl)oxy]-1-methylethyl}benzene
N-bromosuccinimide (119 mg, 0.666 mmol) was added to resin-bound triphenylphosphine (222 mg, 0.666 mEquiv, Fluka) and 2-[(1-methyl-1-phenylethyl)oxy]ethanol (60 mg, 0.333 mmol) in DCM (4 mL). The reaction vial was sealed with a Teflon-lined cap, wrapped in aluminum foil, and shaken at rt for 17 h. The reaction was filtered through a SPE cartridge (5 g silica) eluting with the following 10 mL fractions: DCM (fraction 1), 30% EtOAc/hexanes (fraction 2), and 50% EtOAc/hexanes (fraction 3) to give the title compound (34 mg, 42%). The product was characterized by 1H NMR (400 MHz) in CDCl3.

reactant | N-bromosuccinimide | 0.666 mmol, 119 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 222 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[(1-methyl-1-phenylethyl)oxy]ethanol | 0.333 mmol, 60 mg | CC(C)(C1=CC=CC=C1)OCCO | C11H16O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | aluminum | [Al] | Al
product | {1-[(2-bromoethyl)oxy]-1-methylethyl}benzene | 34 mg, 42% | BrCCOC(C)(C)C1=CC=CC=C1 | C11H15BrO
